US05124065
This compound may be prepared by reacting a dimethylformamide solution of 1,1,1-trichloro-2,2,2-trifluoromethane with chlorotrimethylsilane in the presence of zinc, forming 1-(trimethylsiloxy)-2,2-dichloro-3,3,3-trifluoro-N,N-dimethylpropylamine. The 1-(trimethylsiloxy)-2,2-dichloro-3,3,3-trifluoro-N,N-dimethyl propylamine is reacted with sulfuric acid to form 2,2-dichloro-3,3,3-trifluoropropionaldehyde. The 2,2-dichloro-3,3,3-trifluoropropionaldehyde is then reacted with sulfur tetrafluoride to produce 2,2-dichloro-1,1,1,3,3-pentafluoropropane.

reactant | 1-(trimethylsiloxy)-2,2-dichloro-3,3,3-trifluoro-N,N-dimethyl propylamine | C[Si](OC(C(C(F)(F)F)(Cl)Cl)N(C)C)(C)C | C8H16Cl2F3NOSi
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 2,2-dichloro-3,3,3-trifluoropropionaldehyde | ClC(C=O)(C(F)(F)F)Cl | C3HCl2F3O
